US07763562B2
Bis(2-methyl-1H-inden-7-yl)(phenyl)phosphine
A mixture of 21.3 g (49.5 mmol) of crude bis(1-methoxy-2-methyl-2,3-dihydro-1H-inden-4-yl)(phenyl)phosphine, 100 ml of 16 M HCl, and 150 ml of methanol was refluxed for 5 hours. This mixture was cooled to ambient temperature, and 100 ml of water was added. The white precipitate that formed was filtered off and dried in vacuum. Yield, 15.0 g (82%) of a white solid.

reactant | bis(1-methoxy-2-methyl-2,3-dihydro-1H-inden-4-yl)(phenyl)phosphine | 49.5 mmol, 21.3 g | COC1C(CC2=C(C=CC=C12)P(C1=CC=CC=C1)C1=C2CC(C(C2=CC=C1)OC)C)C | C28H31O2P
reactant | HCl | 16 M, 100 ml | Cl | ClH
reactant | methanol | 150 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | Bis(2-methyl-1H-inden-7-yl)(phenyl)phosphine | CC=1CC2=C(C=CC=C2C1)P(C1=CC=CC=C1)C=1C=CC=C2C=C(CC12)C | C26H23P
